US07091228B2
Methyl 2-[(4′-aminobiphenyl-4-yl)carbonyl]cyclopentanecarboxylate (264 mg, 0.02 mmol) was dissolved in n-butanol (8 mL), 2-chloro-5,6-difluoro-1H-benzimidazole (185 mg, 0.98 mmol) and 4 N HCl (0.2 mL) were then added, and the resulting mixture was heated at 90° C. for 5 h. The mixture was then cooled to rt, and solvent was removed under reduced pressure. The residue was dissolved in methanol (5 mL) and tetrahydrofuran (5 mL), and then treated with 1 N aqueous sodium hydroxide (2.45 mL, 2.45 mmol). The mixture was stirred at rt for 16 h and then concentrated under reduced pressure. The residue was purified by preparative reverse-phase HPLC (water/acetonitrile gradient, containing 0.1% TFA) to afford trans-2-({4′-[(5,6-difluoro-1H-benzimidazol-2-yl)amino]biphenyl-4-yl}carbonyl)cyclopentanecarboxylic acid (9.1 mg, 3%). LC-MS m/z 462.3 (MH+), ret. time 3.23 min; 1H NMR (300 MHz, DMSO-d6) δ 1.69–1.81 (m, 4H), 1.98–2.18 (m, 2H), 3.14–3.22 (m, 1H), 4.04–4.09 (m, 1H), 7.38 (t, 2H), 7.77–7.84 (m, 6H), 8.05 (d, 2H).

reactant | Methyl 2-[(4′-aminobiphenyl-4-yl)carbonyl]cyclopentanecarboxylate | 0.02 mmol, 264 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1C(CCC1)C(=O)OC | C20H21NO3
reactant | 2-chloro-5,6-difluoro-1H-benzimidazole | 0.98 mmol, 185 mg | ClC1=NC2=C(N1)C=C(C(=C2)F)F | C7H3ClF2N2
reactant | HCl | 4 N, 0.2 mL | Cl | ClH
reactant | sodium hydroxide | 2.45 mmol, 1 N, 2.45 mL | [OH-].[Na+]
solvent | n-butanol | 8 mL | C(CCC)O | C4H10O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | trans-2-({4′-[(5,6-difluoro-1H-benzimidazol-2-yl)amino]biphenyl-4-yl}carbonyl)cyclopentanecarboxylic acid | 9.1 mg, 3% | FC1=CC2=C(NC(=N2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)O)C=C1F | C26H21F2N3O3
